US09120749B2
(6-Bromo-4-{[trans-4-(dimethylamino)cyclohexyl]methylamino}quinolin-3-yl)(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (537 mg, 1.73 mmol) was reacted with trans-4-(aminomethyl)-N,N-dimethylcyclohexanamine (595 mg, 2.60 mmol) to afford the desired product (440 mg, 59%) as a white solid: 1H NMR (300 MHz, CH3OD) δ 9.13 (s, 1H), 8.48 (d, J=2.0 Hz, 1H), 7.83 (dd, J=9.0, 2.0 Hz, 1H), 7.73 (d, J=8.9 Hz, 1H), 3.65 (d, J=6.4 Hz, 2H), 2.91-2.67 (m, 1H), 2.41-2.18 (m, 7H), 1.99 (d, J=10.1 Hz, 4H), 1.67 (d, J=3.3 Hz, 1H), 1.43-0.99 (m, 8H).

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.73 mmol, 537 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | trans-4-(aminomethyl)-N,N-dimethylcyclohexanamine | 2.60 mmol, 595 mg | NC[C@@H]1CC[C@H](CC1)N(C)C | C9H20N2
product | (6-Bromo-4-{[trans-4-(dimethylamino)cyclohexyl]methylamino}quinolin-3-yl)(cyclopropyl)methanone | 440 mg, 59% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC[C@@H]1CC[C@H](CC1)N(C)C | C22H28BrN3O
